datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1c(Cl)cc(Cl)c([O:21][H:20])c1C(=O)NC1CC[NH+](C)CC1.c1ccc(C[N:10](CC2CO2)CC2CO2)cc1>>COc1c(Cl)cc(Cl)c([O-:21])c1C(=O)NC1CC[NH+](C)CC1.c1ccc(C[N+:10](CC2CO2)(CC2CO2)[H:20])cc1 10=20;20,21=21",
"CC(NO)=[N+:21](O)[H:20].O=[N+]([O-])c1cccc([N-:10]C=S)c1>>CC(NO)=[N:21]O.O=[N+]([O-])c1cccc([N:10](C=S)[H:20])c1 10=20;20,21=21",
"C1CC[NH+](CCC[N:10]2CCCC2)C1.C[Si](C)(C)C#CC(=O)[O:21][H:20]>>C1CC[NH+](CCC[N+:10]2([H:20])CCCC2)C1.C[Si](C)(C)C#CC(=O)[O-:21] 10=20;20,21=21",
"CC([NH3+])C(=O)[O-:10].CO[n+]1ccccc1[O:21][H:20]>>CC([NH3+])C(=O)[O:10][H:20].CO[n+]1ccccc1[O-:21] 10=20;20,21=21",
"CCC(=O)C(CC[N+:21]1([H:20])CCCCC1)(c1ccccc1)c1ccccc1.Cc1ccc(C(=O)[O-:10])cc1O>>CCC(=O)C(CC[N:21]1CCCCC1)(c1ccccc1)c1ccccc1.Cc1ccc(C(=O)[O:10][H:20])cc1O 10=20;20,21=21",
"C[C@H]([NH3+])[C@H](C)[NH2+:21][H:20].OCCCC[NH2:10]>>C[C@H]([NH3+])[C@H](C)[NH2:21].OCCCC[NH2+:10][H:20] 10=20;20,21=21",
"ON=C1C=CC(=NO)c2c1ccc[n+:21]2[H:20].O[C@H]1CCCC[C@@H]1C[NH2:10]>>ON=C1C=CC(=NO)c2c1ccc[n:21]2.O[C@H]1CCCC[C@@H]1C[NH2+:10][H:20] 10=20;20,21=21",
"CCC(C)[N+:21](C)(C)[H:20].C[Si](C)(C)C[NH:10]c1ccccc1>>CCC(C)[N:21](C)C.C[Si](C)(C)C[NH+:10](c1ccccc1)[H:20] 10=20;20,21=21",
"CN(C)CCC[N:10](C)C.O=C([O-])c1ccc([NH:21][H:20])c2cccnc12>>CN(C)CCC[N+:10](C)(C)[H:20].O=C([O-])c1ccc([NH-:21])c2cccnc12 10=20;20,21=21",
"CCOc1ccccc1/C=C/C(=O)[O:21][H:20].c1ccc(-c2cc(-c3ccccc3)c(NCC[N:10]3CCOCC3)nn2)cc1>>CCOc1ccccc1/C=C/C(=O)[O-:21].c1ccc(-c2cc(-c3ccccc3)c(NCC[N+:10]3([H:20])CCOCC3)nn2)cc1 10=20;20,21=21",
"COc1c2ccccc2[n:10]c2ccccc12.O=C(C#CCl)[O:21][H:20]>>COc1c2ccccc2[n+:10]([H:20])c2ccccc12.O=C(C#CCl)[O-:21] 10=20;20,21=21",
"CN1CCCCC1c1ccc[n+:21]([H:20])c1.C[N:10]1[C@@H]2CC[C@H]1C[C@@H](O)C2>>CN1CCCCC1c1ccc[n:21]c1.C[N+:10]1([H:20])[C@@H]2CC[C@H]1C[C@@H](O)C2 10=20;20,21=21",
"CCCC[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])=C1>>CCCC[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)=C1 10=20;20,21=21",
"CCCCOc1cccc(C(=O)[O-:10])c1.C[N+]1(CCC(=O)[O:21][H:20])CCCCC1>>CCCCOc1cccc(C(=O)[O:10][H:20])c1.C[N+]1(CCC(=O)[O-:21])CCCCC1 10=20;20,21=21",
"O=C1Oc2cc([O-:10])ccc2C=C1c1ccccc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C1Oc2cc([O:10][H:20])ccc2C=C1c1ccccc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C/C=C/C(=O)[O:21][H:20].c1ccc([C@@H]2C[N:10]3CCC[C@@H]3c3ccccc32)cc1>>C/C=C/C(=O)[O-:21].c1ccc([C@@H]2C[N+:10]3([H:20])CCC[C@@H]3c3ccccc32)cc1 10=20;20,21=21",
"Cn1c(CO)[n+:21]([H:20])c2ccccc21.Nc1cc[n:10]c(N)n1>>Cn1c(CO)[n:21]c2ccccc21.Nc1cc[n+:10]([H:20])c(N)n1 10=20;20,21=21",
"CC(C)(C)c1cc(/C=C/Cl)cc(C(C)(C)C)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)(C)c1cc(/C=C/Cl)cc(C(C)(C)C)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"[O-]N=C1C(=NO)CCC/C1=N\[O-:10].c1ccc(-n2nc3c(c2[O:21][H:20])CCCC3)cc1>>[O-]N=C1C(=NO)CCC/C1=N\[O:10][H:20].c1ccc(-n2nc3c(c2[O-:21])CCCC3)cc1 10=20;20,21=21",
"Cc1ccc([O-:10])c(C(=O)[O-])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc([O:10][H:20])c(C(=O)[O-])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[H:20]>>CC(C)[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"Cc1cc(C)[n+:21]([H:20])nc1C.O=C1CC(Sc2ccccc2)[N-:10]1>>Cc1cc(C)[n:21]nc1C.O=C1CC(Sc2ccccc2)[N:10]1[H:20] 10=20;20,21=21",
"COc1ccc(CC(C)[NH+:21](C)[H:20])cc1OC.c1c(CN2CC[NH2+]CC[NH:10]CC2)n[nH]c1CN1CCNCC[NH2+]CC1>>COc1ccc(CC(C)[NH:21]C)cc1OC.c1c(CN2CC[NH2+]CC[NH+:10]([H:20])CC2)n[nH]c1CN1CCNCC[NH2+]CC1 10=20;20,21=21",
"C1CCC[NH:10]CCC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C1CCC[NH+:10]([H:20])CCC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"NC(=O)c1cc(-c2ccccc2)nnc1[N-:10]CCN1CCOCC1.O=C(CBr)[O:21][H:20]>>NC(=O)c1cc(-c2ccccc2)nnc1[N:10](CCN1CCOCC1)[H:20].O=C(CBr)[O-:21] 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(F)cc2)CCC1(C)C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(F)cc2)[H:20])CCC1(C)C.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC1(C)CCCC(C)(C)[N+:21]1(C)[H:20].CCOC(=O)c1ccc(CC[NH2:10])cc1>>CC1(C)CCCC(C)(C)[N:21]1C.CCOC(=O)c1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"C1CCC[NH:10]CCCCCCNCC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C1CCC[NH+:10]([H:20])CCCCCCNCC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cn1c(-c2ccccn2)[n+:21]([H:20])c2ccccc21.O=C(/C=C/c1cccc([N+](=O)[O-])c1)[O-:10]>>Cn1c(-c2ccccn2)[n:21]c2ccccc21.O=C(/C=C/c1cccc([N+](=O)[O-])c1)[O:10][H:20] 10=20;20,21=21",
"N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20].Oc1onc2c1CC[NH:10]CC2>>N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1.Oc1onc2c1CC[NH+:10]([H:20])CC2 10=20;20,21=21",
"CS(=O)(=O)c1ccc([O:21][H:20])cc1.Cc1cccc(O)c1C(=O)[O-:10]>>CS(=O)(=O)c1ccc([O-:21])cc1.Cc1cccc(O)c1C(=O)[O:10][H:20] 10=20;20,21=21",
"CSc1ccc([NH2:10])cc1I.OCC(CO)[NH2+:21][H:20]>>CSc1ccc([NH2+:10][H:20])cc1I.OCC(CO)[NH2:21] 10=20;20,21=21",
